US03952001
3-Mercapto-1,2,4-triazole (20.2 g.) was added to a solution of 4.8 g. sodium in 150 ml. absolute ethanol. When dissolution was complete 24.6 g. propyl bromide was added. The stirred mixture was gradually heated to boiling under reflux, refluxed for 1 hour, cooled to room temperature and filtered. The filtrate was distilled to dryness under reduced pressure and the residue was dissolved in ether. The resulting solution was filtered, dried over anhydrous sodium sulphate and distilled under reduced pressure to give 3-propylthio-1,2,4-triazole, b.p. 143° - 144°C./1 mm. This product solidified, m.p. 53° - 56°C.

reactant | 3-Mercapto-1,2,4-triazole | 20.2 g | SC1=NNC=N1 | C2H3N3S
reactant | sodium | [Na] | Na
reactant | propyl bromide | C(CC)Br | C3H7Br
solvent | ethanol | C(C)O | C2H6O
product | 3-propylthio-1,2,4-triazole | C(CC)SC1=NNC=N1 | C5H9N3S
